US08455534B2
Step 1: 4-Bromo-3-chloro-2-methylaniline
To a solution of 3-chloro-2-methylaniline (30 g, 0.212 mol) in CH3CN (300 mL) was added NBS (45.2 g, 0.254 mol) in portions at 10° C. The resulting mixture was stirred at room temperature for 30 minutes. Upon completion, saturated Na2S2O3 (500 mL) was added slowly into the reaction mixture at 10° C. The organic layer was separated, and the aqueous layer was extracted with EtOAc. The combined organic layers were dried over Na2SO4 and concentrated in vacuo. The residue was washed with petroleum ether to afford the title compound (30 g), which was used in the next step without further purification. 1H NMR (300 MHz, CDCl3): δ 7.24 (d, 1H), 6.48 (d, 1H), 3.70 (br, 2H), 2.28 (s, 3H).

reactant | 3-chloro-2-methylaniline | 0.212 mol, 30 g | ClC=1C(=C(N)C=CC1)C | C7H8ClN
reactant | NBS | 0.254 mol, 45.2 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | Na2S2O3 | 500 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | CH3CN | 300 mL | CC#N | C2H3N
product | 4-Bromo-3-chloro-2-methylaniline | 30 g | BrC1=C(C(=C(N)C=C1)C)Cl | C7H7BrClN
